US08426408B2
N,N-dimethyl-2-(4-nitro-1H-pyrazol-1-yl)ethanamine
2-Dimethylaminoethyl chloride hydrochloride (955 mg, 6.63 mmol), potassium carbonate (1.83 g, 8.84 mmol) and 4-nitro-1H-pyrazole (750 mg, 6.63 mmol) were combined in acetone (30 ml) and the reaction was stirred overnight at reflux. After cooling to room temperature, the crude reaction mixture was filtered to remove inorganics, and the filtrate was concentrated to give the product.

reactant | 2-Dimethylaminoethyl chloride hydrochloride | 6.63 mmol, 955 mg | Cl.CN(CCCl)C
reactant | potassium carbonate | 8.84 mmol, 1.83 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-nitro-1H-pyrazole | 6.63 mmol, 750 mg | [N+](=O)([O-])C=1C=NNC1 | C3H3N3O2
solvent | acetone | 30 ml | CC(=O)C | C3H6O
product | N,N-dimethyl-2-(4-nitro-1H-pyrazol-1-yl)ethanamine | CN(CCN1N=CC(=C1)[N+](=O)[O-])C | C7H12N4O2
